US05843942
Ethyl 4-(1-(2-benzyloxypyrazin-3-yl)prop-1-ylamino)benzoate (229 mg) was dissolved in THF (7 mL) and methanol (7 mL) and sodium hydroxide solution added (1.5 mL, 2M). The mixture was stirred for seventeen hours at ambient temperature, then heated at reflux for 2 hours, allowed to cool to ambient temperature and then the solvents evaporated off. The resulting foam was dissolved in water (25 mL) and extracted with ethyl acetate (2×20 mL) the aqueous phase was then adjusted to pH 4-5 with glacial acetic acid and re-extracted with ethyl acetate (2×20 mL). The combined organic phases were dried over magnesium sulphate. After removal of solvents, the residue was purified by MPLC (1% acetic acid, 24% ethyl acetate in hexane, silica)to give a yellow gum which was further purified by crystallisation from the above eluent system to give 4-(1-(2-benzyloxypyrazin-3-yl)prop-1-ylamino benzoic acid (138 mg, mp 141.5° C.).

reactant | Ethyl 4-(1-(2-benzyloxypyrazin-3-yl)prop-1-ylamino)benzoate | 229 mg | C(C1=CC=CC=C1)OC1=NC=CN=C1C(CC)NC1=CC=C(C(=O)OCC)C=C1 | C23H25N3O3
reactant | methanol | 7 mL | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 1-(2-benzyloxypyrazin-3-yl)prop-1-ylamino benzoic acid | 138 mg | C(C1=CC=CC=C1)OC1=NC=CN=C1C(CC)NC1=C(C(=O)O)C=CC=C1 | C21H21N3O3
